US09375009B2
To a solution of 2-[3-(chloroacetyl)-4,5-dihydro-1,2-oxazol-5-yl]-5-(trifluoromethyl)phenyl methanesulphonate (200 mg) and tert-butyl 4-carbamothioylpiperidine-1-carboxylate (108 mg) in tetrahydrofuran (2 ml) at room temperature was added tetrabutylammonium bromide. The reaction mixture was stirred at room temperature for 12 hours. Then water was added thereto, and the aqueous phase was removed and extracted with ethyl acetate. The combined organic phases were dried over magnesium sulphate and concentrated. Purification by column chromatography gave tert-butyl 4-[4-(5-{2-[(methylsulphonyl)oxy]-4-(trifluoromethyl)phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidine-1-carboxylate (168 mg, 56%).

reactant | 2-[3-(chloroacetyl)-4,5-dihydro-1,2-oxazol-5-yl]-5-(trifluoromethyl)phenyl methanesulphonate | 200 mg | CS(=O)(=O)OC1=C(C=CC(=C1)C(F)(F)F)C1CC(=NO1)C(CCl)=O | C13H11ClF3NO5S
reactant | tert-butyl 4-carbamothioylpiperidine-1-carboxylate | 108 mg | C(N)(=S)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O2S
reactant | water | O | H2O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | tert-butyl 4-[4-(5-{2-[(methylsulphonyl)oxy]-4-(trifluoromethyl)phenyl}-4,5-dihydro-1,2-oxazol-3-yl)-1,3-thiazol-2-yl]piperidine-1-carboxylate | 168 mg, 56% | CS(=O)(=O)OC1=C(C=CC(=C1)C(F)(F)F)C1CC(=NO1)C=1N=C(SC1)C1CCN(CC1)C(=O)OC(C)(C)C | C24H28F3N3O6S2
